US07265104B2
To a solution of 4-ethoxy-7,8-difluoro-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Preparation 3(B) (5.38 g, 22.4 mmol) in acetic acid (100 mL) was added benzoic hydrazide (3.11 g, 22.85 mmol). The reaction was heated to 120° C. for 18 hours and the volatiles were concentrated in vacuo. The residue was dissolved in CH2Cl2 and the organic solution was washed with aqueous NaHCO3 (1×), dried (Na2SO4), filtered and concentrated. The solid residue was triturated with a warm mixture of EtOAc and hexanes and was filtered. The solids were triturated in 50% hexanes in Et2O and filtered to provide 3.97 g of 8,9-difluoro-1-phenyl-4H,6H-2,3,6,10b-tetraaza-benzo[e]azulen-5-one. 1H NMR (DMSO-d6) δ 7.52-7.36 (m, 6H), 7.06 (m, 1H), 3.91 (d, 1H), 3.76 (d, 1H); MS 313.1 (M+1), 311.1 (M−1).

reactant | 4-ethoxy-7,8-difluoro-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)OC1=NC2=C(NC(C1)=O)C=C(C(=C2)F)F | C11H10F2N2O2
reactant | benzoic hydrazide | 22.85 mmol, 3.11 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 8,9-difluoro-1-phenyl-4H,6H-2,3,6,10b-tetraaza-benzo[e]azulen-5-one | 3.97 g | FC1=CC2=C(N3C(=NN=C3CC(N2)=O)C2=CC=CC=C2)C=C1F | C16H10F2N4O
